US05654298
A mixture of 4-(1-indolinyl)-6-methyl-2-(methylamino)pyridine (0.45 g, 1.88 mM), 30% w/w palladium on charcoal (0.045 g) and diphenyl ether (10 ml) was heated under reflux for 45 minutes. The mixture was cooled. Diethyl ether (50 ml) was added and the catalyst removed by filtration through diatomaceous earth. The filter cake was washed with diethyl ether (50 ml). The filtrate and washings were concentrated under reduced pressure. The yellow solid obtained was further purified by flash chromatography (Merck 9385 silica, 100 g) eluting with diethyl ether to give 4-(1-indolyl)-6-methyl-2-methylaminopyridine as a solid (0.42 g, 90% yield), m.p. 156°-158° C.; NMR (CDCl3): 2.45(3H,s,CH3), 2.9-3.0(3H,d,NHCH3), 4.75-4.85(1H,br, NH), 6.3(1H,s, pyridine-3H), 6.6-6.7(2H, complex, pyridine-5H and indole-3H), 7.15-7.4(3H, complex, indole-2H and aromatic), 7.65-7.75(2H, complex, aromatic).

reactant | 4-(1-indolinyl)-6-methyl-2-(methylamino)pyridine | 1.88 mM, 0.45 g | N1(CCC2=CC=CC=C12)C1=CC(=NC(=C1)C)NC | C15H17N3
reactant | diphenyl ether | 10 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | palladium on charcoal | 0.045 g | [Pd] | Pd
solvent | Diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-(1-indolyl)-6-methyl-2-methylaminopyridine | 0.42 g, 90% yield | N1(C=CC2=CC=CC=C12)C1=CC(=NC(=C1)C)NC | C15H15N3
